US07030121B2
To a solution of 2,5-dibromopyridine (12.0 g) and thiophenol (5.46 mL) in DME (50 mL) was added sodium tert-butoxide (5.35 g) at room temperature and the mixture was stirred at 100° C. for 15 h. The reaction mixture was poured into brine, extracted with EtOAc, washed with brine, dried over sodium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (n-hexane-EtOAc 30:1) to give 5-bromo-2-(phenylsulfanyl)pyridine (13.69 g) as an oil.

reactant | 2,5-dibromopyridine | 12.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | thiophenol | 5.46 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium tert-butoxide | 5.35 g | CC(C)([O-])C.[Na+]
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | brine | [Cl-].[Na+].O
product | 5-bromo-2-(phenylsulfanyl)pyridine | 13.69 g | BrC=1C=CC(=NC1)SC1=CC=CC=C1 | C11H8BrNS
